US07723347B2
6-Chloro-N4-{3,5-difluoro-4-[(3-methyl-1H-pyrrolo[2,3-b]pyridin-4-yl)amino]phenyl}pyrimidine-2,4-diamine
27 mg (0.10 mmol) of 2,6-difluoro-N1-(3-methyl-1H-pyrrolo[2,3-b]pyridin-4-yl)benzene-1,4-diamine and 23 mg (0.14 mmol) of 4,6-dichloropyrimidine-2-amine are suspended in 5 ml of water. 0.14 ml of 1 M hydrochloric acid is added, and the mixture is heated at 100° C. overnight. Using 1N aqueous sodium hydroxide solution, the suspension is then adjusted to pH 10, resulting in the precipitation of crystals. The solid is filtered off and washed with water. The crude product is purified by preparative HPLC.

reactant | 2,6-difluoro-N1-(3-methyl-1H-pyrrolo[2,3-b]pyridin-4-yl)benzene-1,4-diamine | 0.10 mmol, 27 mg | FC1=C(C(=CC(=C1)N)F)NC1=C2C(=NC=C1)NC=C2C | C14H12F2N4
reactant | 4,6-dichloropyrimidine-2-amine | 0.14 mmol, 23 mg | ClC1=NC(=NC(=C1)Cl)N | C4H3Cl2N3
reactant | hydrochloric acid | 1 M, 0.14 ml | Cl | ClH
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | 5 ml | O | H2O
product | 6-Chloro-N4-{3,5-difluoro-4-[(3-methyl-1H-pyrrolo[2,3-b]pyridin-4-yl)amino]phenyl}pyrimidine-2,4-diamine | ClC1=CC(=NC(=N1)N)NC1=CC(=C(C(=C1)F)NC1=C2C(=NC=C1)NC=C2C)F | C18H14ClF2N7
